US05010078
N-[3-[4-(2-Pyrimidinyl)-1-piperazinyl]propyl]tricyclo[3,3,1,13,7 ]decane-1-carboxamide Hydrochloride Hydrate
To a stirred solution of [4-(2-pyrimidinyl)piperazino]propylamine (1.12 g, 0.005 mol) in 50 mL of methylene chloride, adamantane-1-carboxylic acid chloride (1 g, 0.005 mol) and triethylamine (1.0 g, 0.01 mol) were added. Stirring was continued at room temperature overnight. The methylene chloride solution was washed with water, dried over anhydrous sodium sulfate and evaporated under reduced pressure. The remaining residue was subjected to preparative HPLC using a column of silica gel and ethyl acetate as the eluent. The title compound was separated and converted to the hydrochloride hydrate salt with ethanolic HCl (1.6 g), m.p. 146°-148° C.

reactant | [4-(2-pyrimidinyl)piperazino]propylamine | 0.005 mol, 1.12 g | N1=C(N=CC=C1)N1CCN(CC1)CCCN | C11H19N5
reactant | adamantane-1-carboxylic acid chloride | 0.005 mol, 1 g | C12(CC3CC(CC(C1)C3)C2)C(=O)Cl | C11H15ClO
reactant | triethylamine | 0.01 mol, 1.0 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | N-[3-[4-(2-Pyrimidinyl)-1-piperazinyl]propyl]tricyclo[3,3,1,13,7 ]decane-1-carboxamide Hydrochloride Hydrate | O.Cl.N1=C(N=CC=C1)N1CCN(CC1)CCCNC(=O)C12CC3CC(CC(C1)C3)C2 | InChI=1S/C22H33N5O.ClH.H2O/c28-20(22-14-17-11-18(15-22)13-19(12-17)16-22)23-5-2-6-26-7-9-27(10-8-26)21-24-3-1-4-25-21;;/h1,3-4,17-19H,2,5-16H2,(H,23,28);1H;1H2
